US09371318B2
Step 1: Ethyl 1-(3-(1,3-dioxolan-2-yl)propyl)-1H-pyrazole-4-carboxylate
To an ice-cooled stirred solution of ethyl 1H-pyrazole-4-carboxylate (2.0 g, 14.3 mmol) in DMF (10 mL) was added sodium hydride (60% dispersion in mineral oil, 0.68 g, 17.1 mmol). The reaction mixture was allowed to warm to RT over 20 minutes and 2-(2-bromoethyl)-1,3-dioxolane (2.84 g, 15.7 mmol) added. The reaction mixture was heated at 60° C. for 16 hours. The reaction was partitioned between ethyl acetate and brine. The organic phase was washed with further brine, dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was purified by flash column chromatography eluting with 0-100% ethyl acetate in iso-hexane to afford the title compound (2.14 g, 59%).

reactant | ethyl 1H-pyrazole-4-carboxylate | 14.3 mmol, 2.0 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | sodium hydride | 17.1 mmol, 0.68 g | [H-].[Na+]
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 15.7 mmol, 2.84 g | BrCCC1OCCO1 | C5H9BrO2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(3-(1,3-dioxolan-2-yl)propyl)-1H-pyrazole-4-carboxylate | 2.14 g, 59% | O1C(OCC1)CCCN1N=CC(=C1)C(=O)OCC | C12H18N2O4
